US08633315B2
N-((1S)-1-((1R)-2-(((4′S)-6′-(2,2-dimethylpropyl)-8′-(1-methyl-1H-imidazol-2-yl)-3′,4′-dihydrospiro[cyclobutane-1,2′-pyrano[2,3-c]pyridin]-4′-yl)amino)-1-hydroxyethyl)-3-buten-1-yl)-2-methoxyacetamide
A solution of N-((1S)-1-((1R)-2-(((4′S)-8′-chloro-6′-(2,2-dimethylpropyl)-3′,4′-dihydrospiro[cyclobutane-1,2′-pyrano[2,3-c]pyridin]-4′-yl)amino)-1-hydroxyethyl)-3-buten-1-yl)-2-methoxyacetamide (225 mg, 469 μmol) and tetrakis(triphenylphosphine)palladium (108 mg, 93.7 μmol) in THF (3.0 mL) is added to a vial with 1-methyl-2-(tributylstannyl)-1H-imidazole (217 mg, 586 μmol). The reaction was heated in the microwave at 160° C. for 20 min. The residue was diluted with H2O (10 mL) and extracted with CH2Cl2 (3×10 ml). The organic layers were dried (MgSO4), concentrated and purified by reverse phase HPLC to give the title compound as a white amorphous solid. MS m/z=526.3 [M+H]+.

reactant | N-((1S)-1-((1R)-2-(((4′S)-8′-chloro-6′-(2,2-dimethylpropyl)-3′,4′-dihydrospiro[cyclobutane-1,2′-pyrano[2,3-c]pyridin]-4′-yl)amino)-1-hydroxyethyl)-3-buten-1-yl)-2-methoxyacetamide | 469 μmol, 225 mg | ClC=1N=C(C=C2C1OC1(C[C@@H]2NC[C@@H](O)[C@H](CC=C)NC(COC)=O)CCC1)CC(C)(C)C | C25H38ClN3O4
reactant | 1-methyl-2-(tributylstannyl)-1H-imidazole | 586 μmol, 217 mg | CN1C(=NC=C1)[Sn](CCCC)(CCCC)CCCC
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
solvent | H2O | 10 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 93.7 μmol, 108 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-((1S)-1-((1R)-2-(((4′S)-6′-(2,2-dimethylpropyl)-8′-(1-methyl-1H-imidazol-2-yl)-3′,4′-dihydrospiro[cyclobutane-1,2′-pyrano[2,3-c]pyridin]-4′-yl)amino)-1-hydroxyethyl)-3-buten-1-yl)-2-methoxyacetamide | CC(CC=1C=C2C(=C(N1)C=1N(C=CN1)C)OC1(C[C@@H]2NC[C@@H](O)[C@H](CC=C)NC(COC)=O)CCC1)(C)C | C29H43N5O4
